US07749992B2
Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-carboxy-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add 2 N sodium hydroxide solution (2 mL) to a solution of isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (0.100 g, 0.174 mmol) in methanol (5 mL) at 0° C. and allow to stir for 30 min. Acidify to pH 4 with 2 N hydrochloric acid solution and extract the aqueous mixture with ethyl acetate (3×10 mL). Wash the organic layer with water and brine (10 mL each). Dry the organic layer over anhydrous sodium sulfate, filter and remove the solvent under reduced pressure. Purify the residue by triturating with water, to provide the title compound as a white solid (0.091 g, 96%): APCI MS 561 (M+H).

reactant | sodium hydroxide | 2 N, 2 mL | [OH-].[Na+]
reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.174 mmol, 0.100 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C=C2)Br | C25H25BrF6N2O3
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | methanol | 5 mL | CO | CH4O
product | Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-carboxy-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.091 g, 96% | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=CC(=C2)C(=O)O)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C26H26F6N2O5
